US08791272B2
[1-(4-Bromobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl]-acetic acid methyl ester
To a solution of (3,5-dimethyl-1H-pyrazol-4-yl)-acetic acid methyl ester (6 g, 36 mmol) and 4-bromobenzyl bromide (8.9 g, 36 mmol) in 80 ml acetonitrile was added K2CO3 (4.9 g, 36 mmol). The mixture was stirred for 12 h at room temperature, 12 h at 50° C., and after addition of an additional 1 g of K2CO3 the mixture was stirred for another 12 h at room temperature. The mixture was concentrated by under reduced pressure, poured into water and extracted twice with ethyl acetate, dried with MgSO4 and evaporated under reduced pressure.

reactant | (3,5-dimethyl-1H-pyrazol-4-yl)-acetic acid methyl ester | 36 mmol, 6 g | COC(CC=1C(=NNC1C)C)=O | C8H12N2O2
reactant | 4-bromobenzyl bromide | 36 mmol, 8.9 g | BrC1=CC=C(CBr)C=C1 | C7H6Br2
reactant | K2CO3 | 36 mmol, 4.9 g | C(=O)([O-])[O-].[K+].[K+]
reactant | K2CO3 | 1 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 80 ml | C(C)#N | C2H3N
product | [1-(4-Bromobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl]-acetic acid methyl ester | COC(CC=1C(=NN(C1C)CC1=CC=C(C=C1)Br)C)=O | C15H17BrN2O2
